US04221706
4.46 g. of carbobenzoxy-β-alanine is dissolved in 20 ml. of tetrahydrofuran and the resulting solution cooled to -10° C. With constant stirring of the solution, 2.4 ml. of N-methylmorpholine followed by 2.6 ml. of isobutylchloroformate are added and the resulting reaction mixture is stirred thereafter for approximately 5 minutes at -10° C. 4.16 g. of L-proline t-butyl ester hydrochloride in 20 ml. of dimethylformamide and 2.8 ml. of triethylamine is added to the reaction mixture which is thereafter stirred overnight, while slowly warming to room temperature. The solvent of the reaction mixture is evaporated in vacuo at 30°-35°. The residue is dissolved in 800 ml. of ethyl acetate which is washed with (2×150 ml.) a 10% citric acid solution, with (1×150 ml.) water, with (2×150 ml.) saturated solution of sodium bicarbonate and then with (2×100 ml.) water. The organic layer is dried with anhydrous magnesium sulfate and the solvent evaporated to yield carbobenzoxy-β-alanyl-L-proline t-butyl ester.

reactant | carbobenzoxy-β-alanine | C(=O)(OCC1=CC=CC=C1)NCCC(=O)O | C11H13NO4
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | L-proline t-butyl ester hydrochloride | Cl.C(C)(C)(C)OC([C@H]1NCCC1)=O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | carbobenzoxy-β-alanyl-L-proline t-butyl ester | C(C)(C)(C)OC([C@H]1N(CCC1)C(CCNC(=O)OCC1=CC=CC=C1)=O)=O | C20H28N2O5
